US05780607
To 2.85 g (5.34 mmol) of 9-(2-deoxy-2-[[(9H-fluoren-9-ylmethoxy) carbonyl]amino]-β-D-glucopyranosyl)guanine was added dry pyridine and the resulting solution was evaporated. This procedure was repeated twice. To the residue was then added 100 mL of pyridine. To this solution was added 6.8 mL of chlorotrimethylsilane. This reaction mixture was stirred at room temperature for 10 minutes. At this time, additional chlorotrimethylsilane (1.44 mL, 64.8 mmol total) was added. The reaction mixture was stirred at room temperature for an additional 90 minutes. At this time, 2.69 mL (16.22 mmol) of isobutyric anhydride was added and the resultant solution was stirred at room temperature for 1.5 hours at which time TLC indicated the complete conversion of the starting material into product. The reaction mixture was quenched by cooling to 0° C. before addition of 60 mL of cold saturated NaHCO3. This two phase system was stirred for an additional 30 minutes at which time the mixture was extracted twice with EtOAc. The EtOAc layer was concentrated to an oil in vacuo. The residue was dissolved acetonitrile and toluene and concentrated in vacuo; this procedure was repeated once more resulting in a yellow solid. The yellow solid was partitioned between a two phase solvent mixture composed of 200 mL of H2O and 500 mL of CHCl3 / ethanol (3 to 2 vol/vol). The aqueous layer was extracted twice more with the solvent mixture of CHCl3 / ethanol (3 to 2 vol/vol). The combined organic extracts were evaporated in vacuo and the residue was dissolved in a solvent mixture composed of 40 mL of acetonitrile, 40 mL of acetic acid, and 40 mL of H2O. After 15 minutes, the mixture was evaporated to dryness yielding a slightly yellow solid. This solid was chromatographed on a silica gel drip column eluted with a quaternary solvent system composed of EtOAc / CH3CN / CH3OH / H2O (70/10/5/5). In this manner it was possible to isolate 2.44 g (75%) of N-[9-[2-deoxy-2-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-β-D-glucopyranosyl]-6,9-dihydro-6-oxo-1 H-purin-2-yl]2-methylpropanamide. 1H NMR: (CD3OD):guanine H-8 8.19 (s, 1H), anomeric H-1 5.85 (d, 1H), Fmoc-methine 4.10 (m, 1H), N-isobutyryl methyl 1.10 (d, 3H), 1.00 (d, 3H). FAB-MS: m/z 605 for (M+1)+.

reactant | 9-(2-deoxy-2-[[(9H-fluoren-9-ylmethoxy) carbonyl]amino]-β-D-glucopyranosyl)guanine | 5.34 mmol, 2.85 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1O)O)CO)N1C=2N=C(NC(C2N=C1)=O)N | C26H26N6O7
reactant | chlorotrimethylsilane | 64.8 mmol, 1.44 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | isobutyric anhydride | 16.22 mmol, 2.69 mL | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-[9-[2-deoxy-2-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-β-D-glucopyranosyl]-6,9-dihydro-6-oxo-1 H-purin-2-yl]2-methylpropanamide | 2.44 g, 75% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1O)O)CO)N1C=2N=C(NC(C2N=C1)=O)NC(C(C)C)=O | C30H32N6O8
